US06265578B1
Mg(OCH3)2was prepared as follows: To a 25 mL round-bottom flask under argon was added Mg tunings (90 mg, 3.70 mmol), dry CH3OH (2 mL), 2 drops of CCl4 and a catalytic amount of Mg powder. An exothermic reaction took place and hydrogen gas evolution was observed. After the initial exothermic reaction subsided, the reaction mixture was heated to reflux for 1 hour and then cooled to room temperature. Dimethyl 2-(4-phenoxyphenyl)-2-n-hexylmalonate (500 mg, 1.30 mmol) and urea (162 mg, 2.70 mmol) were added to the Mg(OCH3)2. The reaction mixture was heated at 85-90° C. for 1 hour and then excess CH3OH was distilled off until a fluid-paste was obtained and this paste was then heated at 85-90° C. overnight. The reaction was cooled to room temperature, diluted with EtOAc, and washed with 1N HCl. The acidic aqueous layer was re-extracted with EtOAc. The combined EtOAc extracts were washed with water, brine, dried (MgSO4), and concentrated. The resulting oil was purified with HPLC (porasil) using 30% EtOAc/hexanes as eluent to afford 330 mg of 5-n-hexyl-5-(4-phenoxyphenyl)pyrimidine-2,4,6-trione as a white foam: 1H NMR (400 mHz DMSO-d6) δ 11.71 (2NH, s), 7.42-6.99 (9H, m), 2.22 (2H, t), 1.24 (8H, m), 0.85 (3H, t); HRMS Calcd for C22H24N2O4 380.1736; Found 380.1740.

reactant | CH3OH | 2 mL | CO | CH4O
reactant | hydrogen | [H][H] | H2
reactant | Dimethyl 2-(4-phenoxyphenyl)-2-n-hexylmalonate | 1.30 mmol, 500 mg | O(C1=CC=CC=C1)C1=CC=C(C=C1)C(C(=O)OC)(C(=O)OC)CCCCCC | C23H28O5
reactant | urea | 2.70 mmol, 162 mg | NC(=O)N | CH4N2O
catalyst | CCl4 | 2 drops | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-n-hexyl-5-(4-phenoxyphenyl)pyrimidine-2,4,6-trione | 330 mg | C(CCCCC)C1(C(NC(NC1=O)=O)=O)C1=CC=C(C=C1)OC1=CC=CC=C1 | C22H24N2O4
